US06444685B1
8-[4-(Toluene-4-sulfonyl)-phenyl]-1,4-dioxa-8-aza-spiro[4.5]decane
To a solution of 4-fluorophenyl-4-tolylsulfone (1.25 g, 5 mmol) in N,N′-dimethylpropyleneurea (5 ml) was added 1,4-dioxa-8-aza-spiro[4.5]decane (0.88 g, 6 mmol), and potassium carbonate (0.83 g, 6 mmol). The mixture was stirred at room temperature for 4 h and then heated at 70° C. for 18 h. An additional 0.22 g of 1,4-dioxa-8-aza-spiro[4.5]decane was added, and the reaction was continued for 1 day. The mixture was cooled to room temperature, and treated with water. The resulting suspension was filtered, and the precipitate washed with water and methanol, and dried in vacuo to give 1.80 g of a white solid; m.p. 164-165° C.; MS (ES) m/z 373.9 (MH+); HRMS (EI) Calcd. for C20H23NO4S (M+): 373.1348, Found: 373.1342.

reactant | 4-fluorophenyl-4-tolylsulfone | 5 mmol, 1.25 g | FC1=CC=C(C=C1)C1=C(C=CC(=C1)S(=O)(=O)C1=CC(=C(C=C1)C)C1=CC=C(C=C1)F)C | C26H20F2O2S
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 6 mmol, 0.88 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxa-8-aza-spiro[4.5]decane | 0.22 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | water | O | H2O
solvent | N,N′-dimethylpropyleneurea | 5 ml | CN1CCCN(C1=O)C | C6H12N2O
product | 8-[4-(Toluene-4-sulfonyl)-phenyl]-1,4-dioxa-8-aza-spiro[4.5]decane | 1.80 g | C1(=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)N1CCC2(OCCO2)CC1)C | C20H23NO4S
